* refine deck  VBP=15 V  IREF=100uA  RB 148.5k..148.51k (11 pts, step 1)
* Generated by LTspice 26.0.2 for Windows.
V1 BUS 0 12
R1 P001 BONE_P 560k
R2 FB P001 6.8k
R3 FB 0 100k
C1 BUS 0 1e-7
C2 BONE_P 0 4.7e-7
V2 BONE_P 0 {VBP}
V3 3V3 0 3.3
R5 N001 3V3 {R5SET}
R6 N001 I_SET 10k
R7 N001 0 10k
C3 I_SET 0 1e-7
C14 I_SENSE OUTA 100pF
R8 STIM_GATE OUTA 10k
X§U2 BONE_N STIM_GATE I_SENSE T2N7002AK_G0_00 ;§pnba 3)1)2
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_N BONE_P {RB}
X§U1 I_SET I_SENSE 3V3 0 OUTA level2 Avol=3.16Meg GBW=350k Slew=160k Ilimit=5m Rail=50m Vos=2u En=55n Enk=0 In=100f Ink=0 Rin=1T ;§pnba In+)In-)V+)V-)OUT
.meas tran IBONE AVG -I(R_BONE) FROM 12m TO 15m
.meas tran VBONE AVG V(BONE_P,BONE_N) FROM 12m TO 15m
.meas tran IERR PARAM 100*abs(IBONE-IREF)/IREF
.meas tran PASS PARAM if(IERR<=1,1,0)
.tran 15m startup
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\Liuxm\AppData\Local\LTspice\lib\sym\Contrib\Toshiba\lvmos\T2N7002AK_G0_00.asy)
.lib Contrib/Toshiba/LVMOS/T2N7002AK_G0_00_enc.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Liuxm\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.param IREF=100.0u
.param VBP=15
.param R5SET=10k*(3.3/(IREF*3k)-1)
.step param RB list 148.5k 148.501k 148.502k 148.503k 148.504k 148.505k 148.506k 148.507k 148.508k 148.509k 148.51k
.end
